US08877968B2
15-1-4 3-Pentyl-3-phenylazetidine
To a solution containing 5.26 g (14.1 mmol) of toluene-4-sulfonic acid 2-cyano-2-phenylheptyl ester in 25 mL of THF under nitrogen are added cautiously 600 mg (15.5 mmol) of LiAlH4 powder. The reaction medium is stirred for 1 hour at room temperature and then treated with a sodium sulfate paste (hot water+Na2SO4). After stirring for 30 minutes at room temperature, the salts formed are filtered off and the filtrate is evaporated under reduced pressure. The residue is taken up in dichloromethane and washed with aqueous 1N sodium hydroxide solution. The organic phase is dried over sodium sulfate, filtered and evaporated under reduced pressure. 2.90 g of a colourless oil are obtained and used in the following step without further purification.

reactant | toluene-4-sulfonic acid 2-cyano-2-phenylheptyl ester | 14.1 mmol, 5.26 g | C(#N)C(COS(=O)(=O)C1=CC=C(C=C1)C)(CCCCC)C1=CC=CC=C1 | C21H25NO3S
reactant | LiAlH4 | 15.5 mmol, 600 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | water Na2SO4 | O.[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-Pentyl-3-phenylazetidine | 2.90 g | C(CCCC)C1(CNC1)C1=CC=CC=C1 | C14H21N
